Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with PMH of spinal 
stenosis,
moderate persistent asthma, neuropathy, HTN, HL who presents
after recent outpatient colonoscopy with abdominal pain, chills,
and hematochezia.

Patient underwent elective outpatient colonscopy on ___ with 
Dr.
___. During the procedure, a 36 mm polyp was found 
in
the transverse colon and was removed in piecemeal fashion with a
saline injection-lift technique using a hot snare. The
colonoscopy also revealed diverticulosis and internal
hemorrhoids. Patient initially tolerated the procedure well but
shortly after the procedure started to have hematochezia with
dark, red stool "leaking" from rectum w/o urge to have BM. On
___, patient states she saturated 4 pads with blood. No blood
clots or melena. She presented to ___ ED and had a CT
scan which did not show evidence of perforation but, per the
report, was unable to exclude sigmoid colitis. She received 3g 
IV
unasyn at ___ and was transferred to ___ for further
evaluation.

- In the ED, initial vitals were:
T 98.5 HR 56 BP 146/76 RR 18 SpO2 99% RA 

- Labs were notable for:
Hgb 11.3, WBC 6.2, Plt 148
UA with 121 WBCs, 17 RBCs, few bacteria
Normal BMP

- Patient was given:
___ 02:36 PO/NG Gabapentin 600 mg  
___ 02:36 PO/NG OxyCODONE (Immediate Release) 5 mg
___ 04:05 PO/NG Gabapentin 300 mg    
___ 04:19 PO/NG QUEtiapine Fumarate 50 mg   
___ 04:19 PO/NG TraZODone 300 mg  
___ 04:19 PO/NG Tizanidine 4 mg
___:58 IV Ampicillin-Sulbactam 3 g 

On arrival to the floor, ###

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise 10-point review of systems was negative.

 
Past Medical History:
- Spinal stenosis - Has been followed by Dr ___, on
Chronic Oxycodone
- Moderate persistent asthma without complication - On Symbicort
- Insomnia 
- Hyperlipidemia 
- Hypertension 
- Neuropathy 
- Chronic R sided chest wall pain. Controlled w/ Gabapentin 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: reviewed in POE
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Soft, non-distended, non-tender with bowel sounds
present. 
RECTAL: no hemorrhoids observed. Brown, solid stool in rectal
vault.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE EXAM:
===============
VITALS: ___ 1038 Temp: 98.5 PO BP: 146/81 L Lying HR: 52 
RR: 18 O2 sat: 95% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Soft, non-distended, non-tender with bowel sounds 
present. 
RECTAL: no hemorrhoids observed. Brown, solid stool in rectal 
vault.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. ___ strength throughout. Normal sensation.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:17PM BLOOD WBC-6.2 RBC-3.47* Hgb-11.3 Hct-31.8* 
MCV-92 MCH-32.6* MCHC-35.5 RDW-12.0 RDWSD-39.9 Plt ___
___ 10:17PM BLOOD Neuts-52.6 ___ Monos-6.8 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-3.26 AbsLymp-2.33 AbsMono-0.42 
AbsEos-0.14 AbsBaso-0.03
___ 10:17PM BLOOD Glucose-97 UreaN-7 Creat-0.9 Na-135 K-3.6 
Cl-100 HCO3-22 AnGap-13
___ 09:52AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.7

DISCHARGE LABS:
===============
___ 06:05AM BLOOD WBC-4.1 RBC-3.53* Hgb-11.4 Hct-33.2* 
MCV-94 MCH-32.3* MCHC-34.3 RDW-12.2 RDWSD-42.1 Plt ___
___ 06:05AM BLOOD Glucose-88 UreaN-7 Creat-1.0 Na-141 K-3.8 
Cl-106 HCO3-22 AnGap-13
___ 06:05AM BLOOD Calcium-8.7 Phos-4.2 Mg-1.___ is a ___ year old woman with PMH of spinal 
stenosis, moderate persistent asthma, neuropathy, HTN, HL who 
presents after recent outpatient colonoscopy with abdominal 
pain, chills, and hematochezia.

ACUTE/ACTIVE ISSUES:
====================
# Hematochezia
# Fever/chills
Patient presented with 1 day of hematochezia and fevers/chills 
after recent colonoscopy with removal of large polyp. Exam 
revealed brown stool. CT A/P was obtained without evidence of 
perforation but was unable to exclude colitis in sigmoid colon. 
GI was consulted and felt that the patient's bleeding was likely 
post-procedural. Given that the patient remained hemodynamically 
stable with normal hemoglobin, there was no indication for 
repeat colonoscopy. As a result, the patient was discharged home 
on ___. 

# Fevers/chills:
Patient has had subjective fevers/chills the day after her 
colonoscopy. CT abdomen was unable to rule out colitis. However, 
patient is hemodynamically stable without documented fever or 
leukocytosis and abdomen is completely non-tender on exam. She 
received two doses of unasyn, which was discontinued after 
admission. The patient remained afebrile with normal WBC, so 
decision was made to discharge patient off of antibiotics.

CHRONIC/STABLE ISSUES:
======================
# Spinal stenosis
Continued home pain regimen.

# Neuropathy
Continue home gabapentin.

# Hypertension
Restarted home anti-hypertensives at discharge.

TRANSITIONAL ISSUES:
====================
[] We recommend that the patient undergo repeat colonoscopy in 6 
months for post-endoscopic mucosal resection monitoring.
[] Patient was found to have a non-specific 2.8 cm RLL opacity. 
We recommend repeat chest CT in ___ weeks for monitoring. 
[] Patient was found on CT scan to have bilateral ovarian cysts. 
These could be further assessed with follow-up pelvic ultrasound

# CODE: Full (presumed)
# ___ 
 Relationship: OTHER 
 Phone: ___ 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.

Total time spent on the discharge process more than 30 minutes 
by me, spent in counseling patient and discharge coordination.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO 5X/DAY 
2. QUEtiapine Fumarate 50 mg PO DAILY 
3. TraZODone 300 mg PO QHS:PRN sleep 
4. Tizanidine 4 mg PO BID 
5. Lisinopril 40 mg PO DAILY 
6. Ibuprofen 800 mg PO BID:PRN Pain - Mild 
7. Hydrochlorothiazide 12.5 mg PO DAILY 
8. Gabapentin 600 mg PO BID 
9. Gabapentin 900 mg PO QHS 

 
Discharge Medications:
1.  Gabapentin 600 mg PO BID  
2.  Gabapentin 900 mg PO QHS  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Lisinopril 40 mg PO DAILY  
5.  OxyCODONE (Immediate Release) 5 mg PO 5X/DAY  
6.  QUEtiapine Fumarate 50 mg PO DAILY  
7.  Tizanidine 4 mg PO BID  
8.  TraZODone 300 mg PO QHS:PRN sleep  
9. HELD- Ibuprofen 800 mg PO BID:PRN Pain - Mild  This 
medication was held. Do not restart Ibuprofen until ___ to 
prevent more bleeding

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Hematochezia

SECONDARY DIAGNOSIS:
====================
Spinal stenosis
Neuropathy
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you in the hospital.

WHY WERE YOU ADMITTED:
- You were having bleeding from your rectum that we were 
concerned could be a complication of your recent colonoscopy.

WHAT HAPPENED IN THE HOSPITAL:
- We watched your blood counts and they stayed stable.
- We had the GI doctors ___ and they didn't think that 
you had any complications related to your colonoscopy.

WHAT SHOULD YOU DO AFTER LEAVING:
- Please avoid NSAIDs (ibuprofen, aspirin, naproxen) for 10 days 
after leaving.
- Please take your other medications as prescribed.
- Please follow-up with your doctors as ___.

Thank you for allowing us to take part in your care!

Your ___ team
 
Followup Instructions:
___